US07592457B2
7-chloro-3-methyl-3-(4-nitro-phenyl)-1H-quinoline-2,4-dione
To a suspension of a sodium hydride (1.5 g, 37.5 mmol, 60% in mineral oil) in dry DMF (50 mL) was added a solution of 4-chloro-2-[2-(4-nitro-phenyl)-propionyl amino]-benzoic acid methyl ester (6.4 g, 17.5 mmol) in dry DMF (20 mL) at 0° C. The reaction mixture was stirred for 30 minutes, and the reaction was qeunched by the addition of 0.5M HCl solution (100 mL). The resulting mixture was extracted with ethyl acetate (200 mL×3). The organic layer was washed with water (200 ml×2) and brine (200 ml×2), and dried over anhydrous MgSO4. After evaporation fo the solvent, the residue was purified by a flash column chromatography (n-hexane:EtOAc=5:1) to provide the objective compound (5.50 g, 95%) as pale yellow solid: 1H NMR (200 MHz, CDCl3) δ 1.93 (s, 3H, CH3), 7.00 (d, J=1.8 Hz, 1H, ArH), 7.14 (dd, J=8.4, 2.0 Hz, 1H, ArH), 7.49 (d, J=9.2 Hz, 2H, ArH), 8.18 (d, J=9.2 Hz, 2H, ArH), 11.25 (br, 1H, NH); m.p. 209-210° C.; MS(EI) m/e 330 [M+].

reactant | sodium hydride | 37.5 mmol, 1.5 g | [H-].[Na+]
reactant | 4-chloro-2-[2-(4-nitro-phenyl)-propionyl amino]-benzoic acid methyl ester | 17.5 mmol, 6.4 g | COC(C1=C(C=C(C=C1)Cl)NC(C(C)C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C17H15ClN2O5
reactant | HCl | 0.5M, 100 mL | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 7-chloro-3-methyl-3-(4-nitro-phenyl)-1H-quinoline-2,4-dione | 5.50 g, 95% | ClC1=CC=C2C(C(C(NC2=C1)=O)(C1=CC=C(C=C1)[N+](=O)[O-])C)=O | C16H11ClN2O4
